US09145429B2
A mixture of 4-bromo-3-fluoro-5-(hydroxymethyl)phenol (5.64 g, 25.5 mmol), 3,4-dihydro-2H-pyran (5.8 mL, 64 mmol), and dl-camphorsulfonic acid (118 mg, 2 mol %) in dichloromethane (150 mL) was stirred at room temperature for overnight. The mixture was washed with saturated aqueous sodium bicarbonate and brine, and dried on anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography (9:1 hexane/ethyl acetate) to give 2-(4-bromo-3-fluoro-5-((tetrahydro-2H-pyran-2-yloxy)methyl)phenoxy)tetrahydro-2H-pyran (9.14 g, 92%).

reactant | 4-bromo-3-fluoro-5-(hydroxymethyl)phenol | 25.5 mmol, 5.64 g | BrC1=C(C=C(C=C1CO)O)F | C7H6BrFO2
reactant | 3,4-dihydro-2H-pyran | 64 mmol, 5.8 mL | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | dl-camphorsulfonic acid | 118 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
product | 2-(4-bromo-3-fluoro-5-((tetrahydro-2H-pyran-2-yloxy)methyl)phenoxy)tetrahydro-2H-pyran | 9.14 g, 92% | BrC1=C(C=C(OC2OCCCC2)C=C1COC1OCCCC1)F | C17H22BrFO4
